US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3-{[3-(4-morpholinyl)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (1.00 g, 2.54 mmol) in ethanol (10 ml) was treated with 4-(3-azetidinyl)morpholine dihydrochloride (2.72 g, 12.6 mmol) and triethylamine (2.56 g, 25 mmol) and the resulting mixture was heated under reflux under a nitrogen atmosphere for 24 hours. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed sequentially with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (97:3) gradually changing to dichloromethane:methanol (95:5) to afford the title compound as a colourless oil (1.32 g).

reactant | ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 2.54 mmol, 1.00 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | 4-(3-azetidinyl)morpholine dihydrochloride | 12.6 mmol, 2.72 g | Cl.Cl.N1CC(C1)N1CCOCC1
reactant | triethylamine | 25 mmol, 2.56 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-{[3-(4-morpholinyl)-1-azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 1.32 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CC(C1)N1CCOCC1 | C26H42N4O5
